US04278675
EXAMPLE 2 A. 9-Benzyl-2,6-dichloro-9H-purine.
A mixture of 9-benzyl-2-chloro-9H-adenine (130 mg., 0.5 mmole) and 1.25 ml. of 1 N sodium n-propoxide in n-propanol in 13 ml. of n-propanol is refluxed overnight, neutralized with hydrochloric acid and evaporated in vacuo. Trituration of residual material with water provides 118 mg. of crude product which crystallized from aqueous ethanol affords 90 mg. (64%) of analytically pure 9-benzyl-2-n-propoxy-9H-adenine, m.p. 178°-180° C. (dec.). IR(KBr): 3280, 3130, 2970, 1660, 1595, 1405, 1350, 1330, 1275 cm-1. UV:λmaxEtOH 254 nm(ε8,800), 269.5 nm(ε12,800). NMR(CDCl3):δ1.02(3H,t,J=7 Hz), 1.6-2.1(2H,m), 4.25(2H,t,J=7 Hz), 5.20(2H,s), 6.00(2H,br.s), 7.23(5H,m), 7.50(1H,s).

reactant | 9-benzyl-2-chloro-9H-adenine | 0.5 mmole, 130 mg | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)Cl | C12H10ClN5
reactant | hydrochloric acid | Cl | ClH
reactant | 9-benzyl-2-n-propoxy-9H-adenine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)OCCC | C15H17N5O
solvent | n-propanol | C(CC)O | C3H8O
product | 9-Benzyl-2,6-dichloro-9H-purine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C12H8Cl2N4
